US08735385B2
1-(3-Oxo-propyl)cyclopentanecarboxylic acid methyl ester
To a solution of 1-but-3-enyl-cyclopentanecarboxylic acid methyl ester (4 g, 21.5 mmol) in Isopropanol (35 mL) was added a solution of sodium periodate (10.1 g, 47.3 mmol) in H2O (35 mL) followed by the addition of osmium tetroxide (16 mg, 0.065 mmol). More Isopropanol (30 mL) and H2O (35 mL) were added and the resulting suspension was stirred for 24 hours and then poured onto ice/H2O (200 mL) and extracted with EtOAc (2×200 mL). The organic solutions were combined and dried over Na2SO4, filtered and concentrated to provide a crude oil which was purified by flash column chromatography (10 to 60% EtOAc/heptane) to provide 2.27 g (57% yield over two steps) of the title compound as an oil.

reactant | 1-but-3-enyl-cyclopentanecarboxylic acid methyl ester | 21.5 mmol, 4 g | COC(=O)C1(CCCC1)CCC=C | C11H18O2
reactant | sodium periodate | 47.3 mmol, 10.1 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | Isopropanol | 35 mL | C(C)(C)O | C3H8O
solvent | H2O | 35 mL | O | H2O
catalyst | osmium tetroxide | 0.065 mmol, 16 mg | [Os](=O)(=O)(=O)=O
solvent | H2O | 35 mL | O | H2O
solvent | Isopropanol | 30 mL | C(C)(C)O | C3H8O
product | 1-(3-Oxo-propyl)cyclopentanecarboxylic acid methyl ester | 57% yield | COC(=O)C1(CCCC1)CCC=O | C10H16O3
